US07915411B2
A solution of 4-chloro-3-nitro-phenol was reacted with 2-Chloromethyl-quinoline hydrochloride salt using the conditions described in Example 10C to provide 2-(4-Chloro-3-nitro-phenoxymethyl)-quinoline which was treated sequentially using the procedures from Examples 10D and 10E to provide the title product.

reactant | 4-chloro-3-nitro-phenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 2-Chloromethyl-quinoline hydrochloride salt | Cl.ClCC1=NC2=CC=CC=C2C=C1
product | 2-(4-Chloro-3-nitro-phenoxymethyl)-quinoline | ClC1=C(C=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)[N+](=O)[O-] | C16H11ClN2O3
